US04035369
A mixture of 5 parts of 1-acetyl-4-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]piperidine and 100 parts of sodium hydroxide solution 10% is stirred and refluxed overnight. The reaction mixture is cooled and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The solid residue is stirred in 2,2'-oxybispropane. The product is filtered off and dried in vacuo at 40° C, yielding 3.5 parts (82%) of 4-[2(4-fluorophenyl)-1,3-dioxolan-2-yl]-piperidine.

reactant | 1-acetyl-4-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]piperidine | C(C)(=O)N1CCC(CC1)C1(OCCO1)C1=CC=C(C=C1)F | C16H20FNO3
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-[2(4-fluorophenyl)-1,3-dioxolan-2-yl]-piperidine | 82% | FC1=CC=C(C=C1)C1(OCCO1)C1CCNCC1 | C14H18FNO2
